US07342014B2
Ethyl 5-chloro-3-formylindole-2-carboxylate
After phosphorus oxychloride (2.0 ml) was added to N-methylformanilide (2.9 g), and the mixture was stirred for 15 minutes, 1,2-dichloroethane (50 ml) and ethyl 5-chloroindole-2-carboxylate (4.0 g) were added, and the resultant mixture was heated under reflux for 1 hour. The reaction mixture was poured into an aqueous solution (28 ml) of sodium acetate (14 g) under ice cooling. After stirring for 18 hours, insoluble matter was collected by filtration. This product was successively washed with water and diethyl ether to obtain the title compound (3.56 g).

reactant | phosphorus oxychloride | 2.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-methylformanilide | 2.9 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | ethyl 5-chloroindole-2-carboxylate | 4.0 g | ClC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10ClNO2
reactant | sodium acetate | 28 ml, 14 g | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | Ethyl 5-chloro-3-formylindole-2-carboxylate | 3.56 g | ClC=1C=C2C(=C(NC2=CC1)C(=O)OCC)C=O | C12H10ClNO3
